US04262128
By the method of Example 92, 1-(6-ethoxycarbonylhexyl)-5-octylhydantoin was converted into 3-butyl-1-(6-ethoxycarbonylhexyl)-5-octylhydantoin, which was hydrolysed to give 3-butyl-1-(6-carboxyhexyl)-5-octylhydantoin as a colourless oil.

reactant | 1-(6-ethoxycarbonylhexyl)-5-octylhydantoin | C(C)OC(=O)CCCCCCN1C(=O)NC(=O)C1CCCCCCCC | C20H36N2O4
reactant | 3-butyl-1-(6-ethoxycarbonylhexyl)-5-octylhydantoin | C(CCC)N1C(N(C(C1=O)CCCCCCCC)CCCCCCC(=O)OCC)=O | C24H44N2O4
product | 3-butyl-1-(6-carboxyhexyl)-5-octylhydantoin | C(CCC)N1C(N(C(C1=O)CCCCCCCC)CCCCCCC(=O)O)=O | C22H40N2O4
